US09403810B2
Step 2: tert-Butyl 2-cyclobutylhydrazinecarboxylate
A solution of tert-butyl 2-cyclobutylidenehydrazinecarboxylate (5.0 g, 27.1 mmol) in THF (50 mL) was added dropwise over 1.5 hours to a solution of borane tetrahydrofuran complex (33.9 mL, 33.9 mmol) under a nitrogen atmosphere. The reaction mixture was stirred at room temperature for 2.5 hours. Borane tetrahydrofuran (3 mL, 3 mmol) was added dropwise and the mixture was stirred at room temperature overnight. The resulting mixture was quenched cautiously by the addition of water (50 mL) and the mixture was concentrated under reduced pressure. The residue was diluted with water (30 mL) and extracted with EtOAc (2×200 mL), using brine to aid the separation. The combined organic extracts were washed with brine, dried over MgSO4, filtered and the solvent was removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography eluting with 0-10% EtOAc in iso-hexane afforded the title compound.

reactant | tert-butyl 2-cyclobutylidenehydrazinecarboxylate | 27.1 mmol, 5.0 g | C1(CCC1)=NNC(=O)OC(C)(C)C | C9H16N2O2
reactant | Borane tetrahydrofuran | 3 mmol, 3 mL | O1CCCC1.B
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-cyclobutylhydrazinecarboxylate | C1(CCC1)NNC(=O)OC(C)(C)C | C9H18N2O2
